US08048884B2
Preparation 23: 4-(2-Chloro-pyridin-3-yl)-piperazine-1-carboxylic acid t-butyl ester
Dissolve 2-chloro-3-iodopyridine (2.0 g, 8.37 mmol) in toluene (7 mL). Add piperazine-1-carboxylic acid t-butyl ester (1.2 g, 6.4 mmol), followed by the addition of tris(dibenzylideneacetone)dipalladium(0) (0.12 g, 0.13 mmol), 4,5-bis(diphenyl-phosphino)-9,9-dimethylxanthene (0.23 g, 0.39 mmol), and sodium t-butoxide (0.93 g, 9.7 mmol). Heat at 100° C. for 3.5 hr. Concentrate and partition the residue between EtOAc and water. Extract the aqueous phase twice with ethyl acetate. Wash combined organic layers with brine. Dry the organic extracts (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 0:100 to 20:80 ethyl acetate:hexanes), to give the title preparation (95%). MS (ES): m/z=298 [M+H]+.

reactant | 2-chloro-3-iodopyridine | 8.37 mmol, 2.0 g | ClC1=NC=CC=C1I | C5H3ClIN
reactant | piperazine-1-carboxylic acid t-butyl ester | 6.4 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 4,5-bis(diphenyl-phosphino)-9,9-dimethylxanthene | 0.39 mmol, 0.23 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | sodium t-butoxide | 9.7 mmol, 0.93 g | CC(C)([O-])C.[Na+]
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.13 mmol, 0.12 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2-Chloro-pyridin-3-yl)-piperazine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CC1)Cl | C14H20ClN3O2
